US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (pyridin-2-ylmethyl)-amide
The title compound was prepared from 2-aminomethylpyridine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 304/306 (MH+); HPLC Rf: 4.36 min.; HPLC purity: 97%.

reactant | 2-aminomethylpyridine | NCC1=NC=CC=C1 | C6H8N2
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (pyridin-2-ylmethyl)-amide | N1=C(C=CC=C1)CNC(=O)C1=CC2=NC=CC(=C2S1)Cl | C14H10ClN3OS
